* Arm C oscillator 10: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 10: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 7.630780e-17
Cg1 nand_Y 0 7.630780e-17
Cc0 EN i1_A 4.229080e-17
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 5.339630e-17
Cg3 i1_Y 0 5.339630e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 1.086310e-16
Cg5 i10_Y 0 1.086310e-16
Cc1 i11_A i12_A 2.888000e-17
Cc2 i11_A i10_A 5.765250e-17
Rn11_3 i11_Y i12_A 21.1313
Cg6 i12_A 0 1.261660e-16
Cg7 i11_Y 0 1.261660e-16
Cc3 i12_A i13_A 3.048490e-17
Cc4 i12_A i14_A 0.000000e+00
Rn12_4 i12_Y i13_A 21.1313
Cg8 i13_A 0 1.424670e-16
Cg9 i12_Y 0 1.424670e-16
Cc5 i13_A i14_A 2.692360e-17
Cc6 i13_A i15_A 0.000000e+00
Rn13_5 i13_Y i14_A 21.1313
Cg10 i14_A 0 1.253290e-16
Cg11 i13_Y 0 1.253290e-16
Cc7 i14_A i15_A 3.028690e-17
Rn14_6 i14_Y i15_A 21.3813
Cg12 i15_A 0 1.463070e-16
Cg13 i14_Y 0 1.463070e-16
Cc8 i15_A s683_12 1.402400e-17
Rn15_7 i15_Y s683_12 20.5768
Rn15_8 s683_12 buf_A 9.8357
Rn15_9 s683_12 i16_A 10.4027
Cg14 i16_A 0 5.391960e-17
Cg15 buf_A 0 4.269840e-17
Cg16 i15_Y 0 1.032270e-16
Cg17 s683_12 0 1.998450e-16
Cc9 i16_A s708_8 2.937460e-17
Cc10 s683_12 nand_B 1.530470e-16
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.751800e-17
Cg19 i16_Y 0 3.751800e-17
Cc11 i17_A s708_8 3.809220e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 3.839450e-17
Cg21 i17_Y 0 3.839450e-17
Cc12 i18_A s708_8 3.654540e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 4.146930e-17
Cg23 i18_Y 0 4.146930e-17
Cc13 i19_A s708_8 3.232860e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 4.146930e-17
Cg25 i19_Y 0 4.146930e-17
Cc14 i20_A s708_8 3.232860e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 5.346070e-17
Cg27 i2_Y 0 5.346070e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 3.937250e-17
Cg29 i20_Y 0 3.937250e-17
Cc15 i21_A s708_8 3.481960e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 3.937250e-17
Cg31 i21_Y 0 3.937250e-17
Cc16 i22_A s708_8 3.481960e-17
Rn22_17 i22_Y i23_A 31.1134
Cg32 i23_A 0 2.265640e-16
Cg33 i22_Y 0 2.265640e-16
Cc17 i23_A i24_A 5.423730e-17
Cc18 i23_A s708_8 7.644020e-18
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 1.115390e-16
Cg35 i23_Y 0 1.115390e-16
Cc19 i24_A i25_A 2.888000e-17
Rn24_19 i24_Y i25_A 21.1313
Cg36 i25_A 0 1.274150e-16
Cg37 i24_Y 0 1.274150e-16
Cc20 i25_A i26_A 2.888000e-17
Rn25_20 i25_Y i26_A 21.3813
Cg38 i26_A 0 1.445030e-16
Cg39 i25_Y 0 1.445030e-16
Cc21 i26_A i27_A 2.888000e-17
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 1.261660e-16
Cg41 i26_Y 0 1.261660e-16
Cc22 i27_A i28_A 3.048490e-17
Cc23 i27_A i29_A 0.000000e+00
Rn27_22 i27_Y i28_A 21.1313
Cg42 i28_A 0 1.424670e-16
Cg43 i27_Y 0 1.424670e-16
Cc24 i28_A i29_A 2.692360e-17
Cc25 i28_A i30_A 0.000000e+00
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 1.253290e-16
Cg45 i28_Y 0 1.253290e-16
Cc26 i29_A i30_A 3.028690e-17
Rn29_24 i29_Y i30_A 21.3813
Cg46 i30_A 0 1.419540e-16
Cg47 i29_Y 0 1.419540e-16
Cc27 i30_A nand_B 2.629080e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 5.468930e-17
Cg49 i3_Y 0 5.468930e-17
Rn30_26 i30_Y nand_B 34.8411
Cg50 nand_B 0 3.295090e-16
Cg51 i30_Y 0 3.295090e-16
Cc28 EN nand_B 2.659950e-16
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 5.468930e-17
Cg53 i4_Y 0 5.468930e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 5.353250e-17
Cg55 i5_Y 0 5.353250e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 5.353250e-17
Cg57 i6_Y 0 5.353250e-17
Rn7_30 i7_Y i8_A 30.4170
Cg58 i8_A 0 1.775070e-16
Cg59 i7_Y 0 1.775070e-16
Cc29 i8_A i9_A 5.423730e-17
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 9.770490e-17
Cg61 i8_Y 0 9.770490e-17
Cc30 i9_A i10_A 5.979200e-17
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.228820e-16
Cg63 i9_Y 0 1.228820e-16
Rout_33 buf_X s708_8 26.2464
Rout_34 s708_8 s708_16 28.3393
Rout_35 s708_16 s708_18 60.5357
Rout_36 s708_18 s708_24 11.5893
Rout_37 s708_24 s708_30 46.8036
Cg64 buf_X 0 9.747600e-16
Cg65 s708_30 0 1.696460e-15
Cg66 s708_24 0 1.912840e-15
Cg67 s708_18 0 2.885590e-15
Cg68 s708_16 0 3.713440e-15
Cg69 s708_8 0 2.018990e-15
Cx0 s708_16 0 3.915760e-16
Cx1 s708_18 0 7.506970e-17
Cx2 s708_18 0 0.000000e+00
Cx3 s708_18 0 0.000000e+00
Cx4 s708_18 0 1.052620e-16
Cx5 s708_18 0 8.008060e-17
Cx6 s708_18 0 4.573520e-17
Cx7 s708_18 0 4.350480e-17
Cx8 s708_18 0 0.000000e+00
Cx9 s708_18 0 1.298680e-16
Cx10 s708_18 0 1.523400e-16
Cx11 s708_24 0 5.330050e-17
Cx12 s708_24 0 5.130750e-17
Cx13 s708_30 0 5.578200e-17
Cx14 s708_30 0 0.000000e+00
Cx15 s708_30 0 0.000000e+00
Cx16 s708_30 0 0.000000e+00
Cx17 s708_30 0 0.000000e+00
Cx18 s708_30 0 1.383230e-17
Cx19 s708_16 0 1.158830e-16
Cx20 s708_18 0 0.000000e+00
Cx21 s708_16 0 7.482600e-17
Cx22 s708_16 0 0.000000e+00
Cx23 s708_16 0 2.277360e-16
Cx24 s708_8 0 2.274160e-17
Cx25 s708_16 0 1.098090e-16
Cx26 s708_16 0 6.259340e-17
Cx27 s708_18 0 6.864600e-18
Cx28 s708_18 0 0.000000e+00
Cx29 s708_16 0 0.000000e+00
Cx30 s708_18 0 1.439100e-15
Cx31 s708_30 0 0.000000e+00
Cx32 s708_16 0 4.112180e-17
Cx33 s708_18 0 2.494840e-17
Cx34 s708_16 0 2.004600e-16
Cx35 s708_16 0 5.219550e-16
Cx36 s708_16 0 0.000000e+00
Cx37 s708_16 0 4.147400e-16
Cx38 s708_16 0 0.000000e+00
Cx39 s708_16 0 0.000000e+00
Cx40 s708_30 0 1.955620e-16
Cx41 s708_30 0 3.080070e-15
Cx42 s708_30 0 7.783710e-17
Cx43 s708_18 0 3.929900e-16
Cx44 s708_18 0 1.008310e-16
Cx45 s708_30 0 2.842690e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
